US07507740B2
(iii) Production of 2-[2-(6-methyl-4-phenoxy-5H-pyrrolo[3,2-d]pyrimidin-5-yl)ethoxy]ethyl benzoate
6-Methyl-4-phenoxy-5H-pyrrolo[3,2-d]pyrimidine (299.9 mg) and 2-{2-[(methylsulfonyl)oxy]ethoxy}ethyl benzoate (464.1 mg) were dissolved in N,N-dimethylformamide (7 mL), potassium carbonate (431 mg) was added, and the mixture was stirred at 60° C. for 21 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was separated and purified by silica gel column chromatography (eluent, hexane:ethyl acetate=80:20→20:80) to give the title compound (517.8 mg) as a yellow oil.

reactant | 6-Methyl-4-phenoxy-5H-pyrrolo[3,2-d]pyrimidine | 299.9 mg | CC1=CC=2N=CN=C(C2N1)OC1=CC=CC=C1 | C13H11N3O
reactant | 2-{2-[(methylsulfonyl)oxy]ethoxy}ethyl benzoate | 464.1 mg | C(C1=CC=CC=C1)(=O)OCCOCCOS(=O)(=O)C | C12H16O6S
reactant | potassium carbonate | 431 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
product | 2-[2-(6-methyl-4-phenoxy-5H-pyrrolo[3,2-d]pyrimidin-5-yl)ethoxy]ethyl benzoate | 517.8 mg | C(C1=CC=CC=C1)(=O)OCCOCCN1C(=CC=2N=CN=C(C21)OC2=CC=CC=C2)C | C24H23N3O4
